US07393868B2
Charge a 10 L double jacket reactor, equipped with a mechanical stirrer, a reflux condenser and set under N2 with 4-hydroxy-3-iodo-benzoic acid ethyl ester (1312 g, 4.49 mol), dimethylsulfoxide (3277 mL) and CuCN (442.3 g). Heat the mixture to 105° C. and hold at this temperature for 2.5 h. Cool the brown solution down to 20° C. Add water at 48° C. water (6.5 L) Filter the mixture at 20° C., then wash the cake with water (2 L). Suspend the cake in EtOAc (5 L) and stir during 1 h at 20° C. Filter the suspension on Hyflo Super Cel® (250 g) and rinse with EtOAc (3 L). Decant the filtrates, then evaporate the organic layer to dryness. Take the residue up in n-heptane (10 L). Distill off 2 L of n-heptane, then add CH2Cl2 (400 mL). Cool the mixture cooled to 27° C., filter and rinse the cake with n-heptane (2 L). Dry 48 h at 55° C. under pressure to give 4-hydroxy-3-cyano-benzoic acid ethyl ester. (777.7 g, 4.067 mol). 1H NMR (250 MHz, DMSOd): 1.32 (t, j=7.1 Hz, 3H), 4.3 (q, j=7.1 Hz, 2H), 7.13(d, j=8.8 Hz, 1H), 8.07(dxd, j=8.8 Hz, 2.2 Hz, 1H), 8.16 (d, j=2.2 Hz), 12.11(s (broad), 1H).

reactant | 4-hydroxy-3-iodo-benzoic acid ethyl ester | 4.49 mol, 1312 g | C(C)OC(C1=CC(=C(C=C1)O)I)=O | C9H9IO3
reactant | CuCN | 442.3 g | C(#N)[Cu]
solvent | dimethylsulfoxide | 3277 mL | CS(=O)C | C2H6OS
product | 4-hydroxy-3-cyano-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)O)C#N)=O | C10H9NO3
